US07700657B2
(c) (E)-6-(3-{2-[3,4-Bis(tert-butyldimethylsilanyloxy-methyl)phenyl]ethyl}phenyl)-1,1,1-trifluoro-2-tri-fluoromethyloct-5-en-3-yn-2-ol
In a manner analogous to example 21, by reaction of 5 g (9.1 mmol) of (E)-1-(3-{2-[3,4-bis(tert-butyldimethylsilanyloxymethyl)-phenyl]ethyl}phenyl)-1-ethyl-but-1-en-3-yne with 4 ml (10 mmol) of a 2.5 M solution of butyllithium and a flow of hexafluoroacetone. The desired product is obtained in the form of a yellow oil (m=3.7 g; Y=57%).

reactant | (E)-1-(3-{2-[3,4-bis(tert-butyldimethylsilanyloxymethyl)-phenyl]ethyl}phenyl)-1-ethyl-but-1-en-3-yne | 9.1 mmol, 5 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1CO[Si](C)(C)C(C)(C)C)CCC=1C=C(C=CC1)\C(=C\C#C)\CC | C34H52O2Si2
reactant | butyllithium | C(CCC)[Li]
reactant | hexafluoroacetone | FC(C(=O)C(F)(F)F)(F)F | C3F6O
product | (E)-6-(3-{2-[3,4-Bis(tert-butyldimethylsilanyloxy-methyl)phenyl]ethyl}phenyl)-1,1,1-trifluoro-2-tri-fluoromethyloct-5-en-3-yn-2-ol | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1CO[Si](C)(C)C(C)(C)C)CCC=1C=C(C=CC1)/C(=C/C#CC(C(F)(F)F)(O)C(F)(F)F)/CC | C37H52F6O3Si2
